US07291635B2
To a solution of the title H compound, 2-(2-amino-benzoylamino)-3-(3-benzyloxy-4-nitro-phenyl)-propionic acid methyl ester (388 mg, 0.863 mmol) in methanol (8 mL) is added 1N aqueous NaOH (1.73 mL, 1.73 mmol) and the mixture is stirred at RT for 2 h and evaporated. The residue is dissolved in water (20 mL) and the solution is washed twice with EtOAc. The aqueous layer is neutralized with 1N aqueous HCl (1.73 mL) and extracted three times with EtOAc. The organic extracts are washed with brine, dried over anhydrous MgSO4, decolorized with charcoal, filtered and evaporated to give 2-(2-amino-benzoylamino)-3-(3-benzyloxy-4-nitro-phenyl)-propionic acid as a viscous yellow oil: [M+1]+=436, [M−1]−=434.

reactant | 2-(2-amino-benzoylamino)-3-(3-benzyloxy-4-nitro-phenyl)-propionic acid methyl ester | 0.863 mmol, 388 mg | COC(C(CC1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)NC(C1=C(C=CC=C1)N)=O)=O | C24H23N3O6
reactant | NaOH | 1.73 mmol, 1N, 1.73 mL | [OH-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
product | 2-(2-amino-benzoylamino)-3-(3-benzyloxy-4-nitro-phenyl)-propionic acid | NC1=C(C(=O)NC(C(=O)O)CC2=CC(=C(C=C2)[N+](=O)[O-])OCC2=CC=CC=C2)C=CC=C1 | C23H21N3O6
